US09428509B2
6-(2-Chloro-4-(cyclopentyloxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole
To a mixture of 2-chloro-4-(cyclopentyloxy)-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine (1 equiv), 2-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzooxazole (1 equiv), tripotassium phosphate trihydrorate (3 equiv) in 1,4-dioxane and water (8:1, 0.5 M) was added 1,1-bis(diphenylphosphion)ferrocene palladium dichloride (0.1 equiv). The mixture was refluxed at 90° C. for 2 h. Filtration and concentration gave the crude product, which was purified by silica gel column chromatography (20% ethyl acetate in petroleum ether) to afford the title compound (42% yield). MS (ESI) m/z 498.2 [M+1]+.

reactant | 2-chloro-4-(cyclopentyloxy)-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2I)COCC[Si](C)(C)C)OC2CCCC2 | C17H25ClIN3O2Si
reactant | 2-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzooxazole | 1 equiv | CC=1OC2=C(N1)C=CC(=C2)B2OC(C(O2)(C)C)(C)C | C14H18BNO3
reactant | tripotassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | 0.5 M | O | H2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 6-(2-Chloro-4-(cyclopentyloxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole | 42% yield | ClC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)OC2CCCC2 | C25H31ClN4O3Si
